US06319946B1
4-(1,3-Dioxolan-2-yl)-4-methylpentanenitrile
0.74 g (3.8 mmol) of 2-(4-chloro-1,1-dimethylbutyl)-1,3-dioxolane) and 0.50 g (7.7 mmol) of sodium cyanide in 5 mL of DMSO was heated to 100° C. with stirring. After 18 hours the solution was cooled to RT, diluted with water, and the mixture extracted with ether (3×). The combined ether extracts were washed with water (3×), dried over MgSO4, and concentrated in vacuo to afford 0.69 g (90%) of the desired compound as a light yellow liquid.

reactant | 2-(4-chloro-1,1-dimethylbutyl)-1,3-dioxolane | 3.8 mmol, 0.74 g | ClCCCC(C)(C)C1OCCO1 | C9H17ClO2
reactant | sodium cyanide | 7.7 mmol, 0.50 g | [C-]#N.[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(1,3-Dioxolan-2-yl)-4-methylpentanenitrile | 0.69 g, 90% | O1C(OCC1)C(CCC#N)(C)C | C9H15NO2
